US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}benzo[1,3]dioxole-2,2-dicarboxylic acid (1-phenyl-ethyl) ester
The title compound was prepared as a tan solid according to the procedure of Example 102 from 5-{(2R)-2-[(2R)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(1-phenylethyl) ester; yield: 22%; Rf =0.39 (9/1 CHCl3 /MeOH; mp 71-79° C.; 1H NMR (300 MHz, DMSO-d6): δ 1.00 (d, 3H), δ 1.5 (br m, 3H), δ 2.4-2.75 (m, 1H), δ 3.15-3.45(br m, 5H), δ 4.90 (br d, 1H), δ 5.20 (br d, 1H), δ 5.90 (q, 1H), δ 6.6 (d, 1H), δ 6.76 (d, 2H), δ 7.21 (br s, 6H), δ 7.36 (m, 3H), δ 7.46 (s, 1H); MS (ES) m/z (relative intensity): 526 (M+, 100).

reactant | 5-{(2R)-2-[(2R)-2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(1-phenylethyl) ester | C1(=CC=CC=C1)C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OC(C)C2=CC=CC=C2 | C36H36ClNO7
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}benzo[1,3]dioxole-2,2-dicarboxylic acid (1-phenyl-ethyl) ester | yield: 22% | C1(=CC=CC=C1)C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)O | C28H28ClNO7
